US07282512B2
A solution of 830 mg (1.7 mmol) of tert-butyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate in 100 mL of ethyl acetate was bubbled with hydrogen chloride gas for 5 min and the reaction allowed to stir for 10 min before being conentrated under reduced pressure to afford 720 mg (>99%) of N-((5S)-5-amino-6-hydroxy-7-oxo-7-{[(1R)-1-phenylethyl]amino}heptyl)-4-morpholinecarboxamide hydrochloride. 1H NMR (300 MHz, DMSO-d6) δ 8.46 (d, J=8 Hz, 1H), 7.97 (m, 1H), 7.82 (m, 2H), 7.31 (m, 4H), 7.22 (m, 1H), 6.50 (m, 1H), 4.94 (qnt, 1H), 3.83 under water peak (m, 2H), 3.50 (t, J=5 Hz, 4H), 3.22 (t, J=5 Hz, 4H), 2.98 (m, 2H), 1.20-1.61 (m, 9H). ES-LCMS m/z 393 (M+H).

reactant | tert-butyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | 1.7 mmol, 830 mg | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OC(C)(C)C)=O | C25H40N4O6
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-((5S)-5-amino-6-hydroxy-7-oxo-7-{[(1R)-1-phenylethyl]amino}heptyl)-4-morpholinecarboxamide hydrochloride | 720 mg, >99% | Cl.N[C@@H](CCCCNC(=O)N1CCOCC1)C(C(N[C@H](C)C1=CC=CC=C1)=O)O | InChI=1S/C20H32N4O4.ClH/c1-15(16-7-3-2-4-8-16)23-19(26)18(25)17(21)9-5-6-10-22-20(27)24-11-13-28-14-12-24;/h2-4,7-8,15,17-18,25H,5-6,9-14,21H2,1H3,(H,22,27)(H,23,26);1H/t15-,17+,18?;/m1./s1
